US09212187B2
N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-methyl-pyridin-3-ylmethyl)carbamic acid tert-butyl ester
To a THF solution (15 ml) of 1-ethyl-3,3,5-trimethyl-7-(((2-methylpyridin-3-yl)methylamino)methyl)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione (0.92 g) was added di-tert-butyl dicarbonate (0.58 g) at room temperature, the mixture was stirred overnight. The resulting mixture was concentrated and then purified by column chromatography (ethyl acetate/hexanes 1:4→1:1→7:3) to give the titled compound as colorless oil (0.88 g).

reactant | 1-ethyl-3,3,5-trimethyl-7-(((2-methylpyridin-3-yl)methylamino)methyl)-1H-benzo[b][1,4]diazepine-2,4(3H,5H)-dione | 0.92 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CNCC=2C(=NC=CC2)C | C22H28N4O2
reactant | di-tert-butyl dicarbonate | 0.58 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-(2-methyl-pyridin-3-ylmethyl)carbamic acid tert-butyl ester | 0.88 g | C(C)(C)(C)OC(N(CC=1C(=NC=CC1)C)CC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C27H36N4O4
